US07851473B2
(1) 2,2,2-Trichloroethyl (2-methyl-1,3-benzoxazol-6-yl)carbamate
To a solution of 2-methyl-1,3-benzoxazol-6-amine (1.00 g, 6.74 mmol) and pyridine (1.64 ml, 20.2 mmol) in N,N-dimethylacetamide (20 ml) was added 2,2,2-trichloroethyl chloroformate (1.39 ml, 10.1 mmol) under ice-cooling, and the mixture was stirred for 2 hours under ice-cooling. The reaction mixture was poured into ice-water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and ethyl acetate, and 1.45 g (66.5%) of the desired product was collected by filtration as a solid.

reactant | 2-methyl-1,3-benzoxazol-6-amine | 6.74 mmol, 1.00 g | CC=1OC2=C(N1)C=CC(=C2)N | C8H8N2O
reactant | pyridine | 20.2 mmol, 1.64 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 10.1 mmol, 1.39 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
product | 2,2,2-Trichloroethyl (2-methyl-1,3-benzoxazol-6-yl)carbamate | CC=1OC2=C(N1)C=CC(=C2)NC(OCC(Cl)(Cl)Cl)=O | C11H9Cl3N2O3
